US07569536B2
Morpholine (190 μl, 2.17 mmol, commercially available product) was added at room temperature to an N,N-dimethylformamide (DMF; 0.5 ml) solution of 1-fluoro-2-nitro-4-(trifluoromethyl)benzene (209 mg, 1.00 mmol, commercially available product). The resulting mixture was stirred for three hours. Water was added to the mixture, and the resulting mixture was extracted three times with ethyl acetate. The obtained organic layer was washed with a saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (20 g, hexane/ethyl acetate=3/1). Thus, 4-[2-nitro-4-(trifluoromethyl)phenyl]morpholine (270 mg, 97.7%) was yielded as an orange-colored oily material.

reactant | Morpholine | N1CCOCC1 | C4H9NO
reactant | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
reactant | 1-fluoro-2-nitro-4-(trifluoromethyl)benzene | FC1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C7H3F4NO2
solvent | Water | O | H2O
product | 4-[2-nitro-4-(trifluoromethyl)phenyl]morpholine | 270 mg, 97.7% | [N+](=O)([O-])C1=C(C=CC(=C1)C(F)(F)F)N1CCOCC1 | C11H11F3N2O3
